US04894366
To a stirred solution of the FR-900506 substance (248 mg) in pyridine (7 ml) were added succinic anhydride (145 mg) and 4-(N,N-dimethylamino)pyridine (7 mg), and the resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue was subjected to chromatography on silica gel (20 g) with ethyl acetate to give 17-allyl-12-[2[4-(3-carboxypropionyloxy)-3-methoxycyclohexyl]-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.0 4,9 ]octacos-18-ene-2,3,10,16-tetraone (90 mg).

reactant | FR-900506 | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
reactant | succinic anhydride | 145 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-(N,N-dimethylamino)pyridine | 7 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | 17-allyl-12-[2[4-(3-carboxypropionyloxy)-3-methoxycyclohexyl]-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.0 4,9 ]octacos-18-ene-2,3,10,16-tetraone | 90 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC(CCC(=O)O)=O)OC)C)C)O)=O | C48H73NO15
